US06498165B1
2-[(S)-1-Phenylethylamino]-4-[5-(3-chloropyridazin-6-yl)benzimidazol-1-yl]pyrimidine
The title compound was prepared according to the procedure described in EXAMPLE 424, starting from 2-[(S)-1-Phenylethylamino]-4-[5-trimethylstannylbenzimidazol-1-yl]pyrimidine and 3,6-dichloropyridazine. Mass spectrum (ESI) 427.9 (M+).

reactant | 2-[(S)-1-Phenylethylamino]-4-[5-trimethylstannylbenzimidazol-1-yl]pyrimidine | C1(=CC=CC=C1)[C@H](C)NC1=NC=CC(=N1)N1C=NC2=C1C=CC(=C2)[Sn](C)(C)C
reactant | 3,6-dichloropyridazine | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
product | 2-[(S)-1-Phenylethylamino]-4-[5-(3-chloropyridazin-6-yl)benzimidazol-1-yl]pyrimidine | C1(=CC=CC=C1)[C@H](C)NC1=NC=CC(=N1)N1C=NC2=C1C=CC(=C2)C2=CC=C(N=N2)Cl | C23H18ClN7
